US05665718
1.5 ml (8.6 mmol) of N-ethyldiisopropylamine and 0.28 ml (2.4 mmol) of dimethylallyl bromide were added to a solution of 453 mg (1.2 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 20 ml of methylene chloride and the mixture was stirred at room temperature for 20 hours. The reaction solution was subsequently diluted with methylene chloride and washed three times with water. The organic phases were dried with magnesium sulfate, filtered and evaporated. The is residue obtained was chromatographed (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1). There were obtained 240 mg (43%) of (S)-1-[3-bis-[3-methyl-but-2-enyl)-aminomethyl]-1,2,4-oxadiazol-5-yl]-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.55 (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1).

reactant | N-ethyldiisopropylamine | 8.6 mmol, 1.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylallyl bromide | 2.4 mmol, 0.28 ml | CC(=CCBr)C | C5H9Br
reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 1.2 mmol, 453 mg | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | C=1N=CN2C1C1N(C(C3=C2C=CS3)=O)CC1 | C11H9N3OS
